Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
weakness
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ man with a history of HTN, and HLD who presented to the ED
with shortness of breath and weakness.

He reports that about 3 days ago he started feeling chills,
weakness and a sore throat. Over the subsequent two days the 
sore
throat worsened and he developed a cough and shortness of 
breath.
He was his PCP who indicated he had a virus and told him to 
rest.
There after his sore throat improved and actually resolved by
morning of presentation to the ED but he developed profound
weakness, with lightheadedness and an ongoing cough productive 
of
dark brown sputum. He has also been having nausea but without
vomiting. He denies any chest pain. He has had chills but no
fevers. No join pain or rashes, no easy bruising or bleeding. No
travel or sick contacts. No new medications. He denies yellowing
of his skin or eyes. He reports dark yellow urine but no red or
brown coloration. 
   
In the ED, initial vitals were:  98.0 118 128/74 20 94% RA. Exam
was notable for Tachycardic to 110s and crackles at bases
bilaterally. Labs showing hyponatremia, elevated TBili,
Leukocytosis and anemia. Lactate was 1.1, Flu swb negative, Trop
and CK normal. CXR showing no acute process and RUQ US was
negative. He was given IVFs and admitted to medicine because of
worsening weakness to the point that he can no longer get out of
bed and failing outpatient management.
   
On the floor, the patient is accompanied by his son. Patient
indicates he feels somewhat better though still overall crappy.
He is able to walk independently around his room. His son
indicates that he is usually very active and independent but 
when
he gets a cold he does look like this. The son is not concerned
about the patients appearance. 
 
Review of systems:  
(+) Per HPI also with rhinorrhea
(-) Denies night sweats, recent weight loss or gain. Denies
headache, sinus tenderness, or congestion. Denies chest pain or
tightness, palpitations. No recent change in bowel or bladder
habits. No dysuria. Denies myalgias. Otherwise ROS is negative.
   

 
Past Medical History:
PAST MEDICAL HISTORY: 
- HTN
- HLD
- Aortic Stenosis
- GERD
- COPD

 
Social History:
___
Family History:
- Coronary artery disease
- Mother died of cancer in her ___  
- Father died of an MI at ___

 
Physical Exam:
ADMISSION EXAM
Vitals: 98.0 82 126/80 14 96% RA.
Pain Scale: ___
General: Patient appears as if he feels under the weather but
overall he appears well, he is walking around the room
independently and moves around the bed with ease. He is hard of
hearing. Alert, oriented and in no acute distress  
HEENT: Sclera anicteric, edentulous, dentures, MMM, oropharynx
hyperemic but no exudates
Neck: supple, JVP low, no LAD appreciated
Lungs: Faint rales bilateral bases which clear with coughing,
cough is slightly wet. No wheezing. Moving air well and
symmetrically, no wheezes, or rhonchi appreciated  
CV: Regular rate and rhythm, S1 and S2 clear and of good 
quality,
___ systolic murmur at RUSB, no rubs or gallops appreciated
Abdomen: soft, non-tender, non-distended, normoactive bowel
sounds throughout, no rebound or guarding
Ext: Warm, well perfused, full distal pulses, no clubbing,
cyanosis or edema    
Neuro: CN2-12 grossly in tact, motor and sensory function 
grossly
intact in bilateral UE and ___, symmetric

DISCHARGE EXAM
98.4 PO 121 / 74 L Sitting 90 18 95 Ra 
pleasant, NAD
MMM
RRR, II/VI SEM best at base with radiation into carotids, 
difficult to appreciate if S2 is split
CTAB
sntnd
wwp, neg edema
A&O grossly, MAEE, no facial droop
no rash

 
Pertinent Results:
___ 07:25AM BLOOD WBC-13.0* RBC-3.35* Hgb-11.0* Hct-32.0* 
MCV-96 MCH-32.8* MCHC-34.4 RDW-12.8 RDWSD-45.1 Plt ___
___ 07:40PM BLOOD Neuts-84.0* Lymphs-5.1* Monos-10.1 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-11.54* AbsLymp-0.70* 
AbsMono-1.39* AbsEos-0.00* AbsBaso-0.03
___ 07:25AM BLOOD Glucose-120* UreaN-16 Creat-1.0 Na-139 
K-4.2 Cl-101 HCO3-27 AnGap-11
___ 07:25AM BLOOD ALT-24 AST-21 LD(LDH)-192 AlkPhos-108 
TotBili-1.8* DirBili-0.5* IndBili-1.3

___ 07:25AM BLOOD Iron-15*
___ 07:25AM BLOOD calTIBC-195* Hapto-266* Ferritn-473* 
TRF-150*
___ 02:48PM BLOOD D-Dimer-529*
___ 07:48PM BLOOD Lactate-1.1
___ 10:15PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:15PM URINE Blood-TR* Nitrite-NEG Protein-30* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-4* pH-6.0 Leuks-NEG
___ 10:15PM URINE RBC-1 WBC-1 Bacteri-FEW* Yeast-NONE Epi-0
___ 09:20PM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

___ UCx NGTD
___ BCx NGTD x2

CXR
IMPRESSION: 
1. No evidence of an acute cardiopulmonary abnormality. 
2. 8 mm rounded nodule projecting over the posterolateral right 
eighth rib, unable to distinguish between osseous or pulmonary 
origin with consideration for a rib bone island or pulmonary 
nodule.  Recommend shallow oblique chest radiographs to better 
assess nodule location. 
  
RECOMMENDATION(S):  8 mm rounded nodule projecting over the 
posterolateral 
right eighth rib, unable to distinguish between osseous or 
pulmonary origin with consideration for a rib bone island or a 
pulmonary nodule.  Recommend shallow oblique chest radiographs 
to better assess nodule location. 

RUQUS:
IMPRESSION:  
Unremarkable ultrasound examination.  No cholelithiasis.  No 
intra or 
extrahepatic biliary ductal dilatation seen. 

 
Brief Hospital Course:
___ man with a history of HTN, and HLD who presented to the ED 
with shortness of breath and weakness, most likely viral 
illness.

# Weakness
# Nausea
# Cough  
# SOB
His signs and symptoms seem most likely a viral illness. He 
describes systemic global weakness, sore throat, rhinorrhea, 
cough and chills. There are no localizing symptoms or exam 
findings and no lab or imaging findings to suggest bacterial
infection. Ruled out for MI with EKG/trop, age-adjusted d-dimer, 
flu neg, CXR neg, RUQUS neg, UA neg. Was treated with IVF. 
Weakness improved dramatically upon admission. 
 
# Elevated TBili
Unclear etiology, isolated without elevations in transaminases 
or ALP. Presume most likely related to viral illness. His last 
known TBili was 0.7. RUQ US was negative for obstruction. Ruled 
out hemolysis with LDH and not low haptoglobin, platelets are 
normal. ___ be ___ ___ virus but suggest rechecking as 
o/p. 

# Hyponatremia:
Most likely hypovolumia from acute viral illness. Resolved with 
IVF. 
   
# Aortic stenosis, mild to moderate.   
Recently diagnosed and sees Dr. ___, last in ___. At 
baseline he has been minimally symptomatic. He is being followed 
with annual TTE. No signs of CHF at present. Continued home 
metoprolol
    
# Hypertension: Chronic, stable, not on home meds
  
# Hyperlipidemia: Continued atorvastatin
  
# GERD: continued Pantoprazole
  
# COPD: chronic, stable. Continued tiotropium
    
Transitional Issues:
- Pulmonary nodule seen on plain film, should obtain shallow 
oblique chest radiographs to better assess nodule location.
- Suggest recheck bilirubin/LFTs
- Suggest consideration of colonoscopy as outpatient given iron 
deficiency anemia
- Started on PO iron daily given iron deficiency anemia; suggest 
monitoring anemia as o/p

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fish Oil (Omega 3) 1000 mg PO BID 
2. Metoprolol Tartrate 12.5 mg PO BID 
3. Pantoprazole 20 mg PO Q24H 
4. Atorvastatin 40 mg PO QPM 
5. Tiotropium Bromide 1 CAP IH DAILY 
6. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate 325 mg (65 mg iron) 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
2.  Aspirin 81 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  Fish Oil (Omega 3) 1000 mg PO BID  
5.  Metoprolol Tartrate 12.5 mg PO BID  
6.  Pantoprazole 20 mg PO Q24H  
7.  Tiotropium Bromide 1 CAP IH DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
viral URI, weakness
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,
You were admitted for weakness from a likely viral infection 
that got better with IV fluids. 
When you go home, continue to keep yourself well-hydrated. 
You were noted to low iron levels so were started on iron. You 
should talk to your primary care doctor about undergoing a 
colonoscopy to ensure you don't have any GI bleeding.
You were also found to have a nodule on your chest x-ray. This 
will need a repeat chest x-ray to ensure there are no problems 
like chronic infections or cancers. Though these are unlikely, 
timely follow up will be important.
You had a slight bump in your liver function tests (your biliary 
values). You should follow up with your PCP to ensure these 
normalize.
We wish you the best in your recovery. 
 
Followup Instructions:
___